US08664220B2
Step 4: [1-(4-Bromo-phenyl)-cyclopropyl]-acetonitrile
[1-(4-Bromo-phenyl)-cyclopropyl]-methanol (11.42 g, 50.29 mmol) was dissolved in CH2Cl2 (171 mL) and the solution was cooled to −78° C. Triethylamine (8.41 mL, 60.35 mmol) was added followed by methanesulfonyl chloride (4.30 mL, 55.31 mmol) and the reaction stirred at −78° C. for 1 hour. The reaction was allowed to slowly warm to 0° C. while stirring for an addition 1.5 hours. The reaction was submitted to standard aqueous workup and was then diluted with DMF (90 mL) and evaporated to remove any residual CH2Cl2. Sodium cyanide (7.39 g, 150.8 mmol) and DMF (20 mL) were added and the reaction was heated to 70° C. for 3 hours. The reaction was cooled and submitted to standard aqueous workup to give the title compound.

reactant | [1-(4-Bromo-phenyl)-cyclopropyl]-methanol | 50.29 mmol, 11.42 g | BrC1=CC=C(C=C1)C1(CC1)CO | C10H11BrO
reactant | Triethylamine | 60.35 mmol, 8.41 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 55.31 mmol, 4.30 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Sodium cyanide | 150.8 mmol, 7.39 g | [C-]#N.[Na+]
solvent | CH2Cl2 | 171 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [1-(4-Bromo-phenyl)-cyclopropyl]-acetonitrile | BrC1=CC=C(C=C1)C1(CC1)CC#N | C11H10BrN
